US07022707B2
cis-2,6-Dimethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(3-bromo-2,6-difluoro-benzyl) ester
The compound was prepared from (3-bromo-2,6-difluoro-phenyl)-methanol and 4-chlorocarbonyl-cis-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester according to the procedures described in Example 121 and 54 to give the product as a colorless oil (9.75 g); MS (ISP): 482.3 (M+NH4)+.

reactant | (3-bromo-2,6-difluoro-phenyl)-methanol | BrC=1C(=C(C(=CC1)F)CO)F | C7H5BrF2O
reactant | 4-chlorocarbonyl-cis-3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N([C@H](C1)C)C(=O)Cl)C | C12H21ClN2O3
product | cis-2,6-Dimethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(3-bromo-2,6-difluoro-benzyl) ester | 9.75 g | BrC=1C(=C(COC(=O)N2[C@H](CN(C[C@H]2C)C(=O)OC(C)(C)C)C)C(=CC1)F)F | C19H25BrF2N2O4
